US07465730B2
Utilizing the general procedure outlined in Example 48, 1,1,2,2-tetraacetylethane (400 mg, 2.0 mol) and 4-amino-o-cresol (250 mg, 2.0 mmol) reacted to give 1-[4-acetyl-1-(4-hydroxy-3-methyl-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone as yellow solid: MS (ESI) 286 (M+1)+.

reactant | 1,1,2,2-tetraacetylethane | 2.0 mol, 400 mg | C(C)(=O)C(C(C(C)=O)C(C)=O)C(C)=O | C10H14O4
reactant | 4-amino-o-cresol | 2.0 mmol, 250 mg | NC=1C=C(C(=CC1)O)C | C7H9NO
product | 1-[4-acetyl-1-(4-hydroxy-3-methyl-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone | C(C)(=O)C=1C(=C(N(C1C)C1=CC(=C(C=C1)O)C)C)C(C)=O | C17H19NO3
